US08070830B2
Stage 1: Synthesis of disulphanediyldiethane-2,1-diyl dimethane sulphonate
10 g of 2,2′-dithiodiethanol and 14.44 g of triethylamine (TEA) are diluted in 100 ml of ethyl acetate (EtOAc). At 0° C., 16.35 g of methanesulphonyl chloride diluted in 35 ml of EtOAc are added dropwise to the reaction medium with rapid stirring. 7.22 g of TEA are introduced, and the stirring is continued at ambient temperature for 4 h 30. 8.2 g of methanesulphonyl chloride are added dropwise at 15° C., and then the stirring is maintained at ambient temperature for 17 h. The precipitate is filtered off and washed with 3 times 50 ml of EtOAc. The organic phases are extracted with 100 ml of ice-cold water, 100 ml of water, 3 times 50 ml of a saturated solution of sodium bicarbonate (NaHCO3), with twice 20 ml of a saturated solution of sodium chloride (NaCl), and are then dried over anhydrous sodium sulphate (Na2SO4). The EtOAc is evaporated off, and 17.49 g of pale yellow translucent oil are recovered and stored at −25° C. The analyses indicate that the product is in conformity and pure.

reactant | 2,2′-dithiodiethanol | 10 g | C(CSSCCO)O | C4H10O2S2
reactant | triethylamine | 14.44 g | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 16.35 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | TEA | 7.22 g | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 8.2 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | EtOAc | 35 ml | CCOC(=O)C | C4H8O2
product | disulphanediyldiethane-2,1-diyl dimethane sulphonate | CS(=O)(=O)OCCSSCCOS(=O)(=O)C | C6H14O6S4
